Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"loneliness" and passive, fleeting thoughts of suicidal ideation
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
This is a ___ yo F ___ senior with a PPH of depression, 
past dx of conversion disorder, 1 past suicide attempt, 2 past 
inpatient psychiatric hospitalizations, past self-injurious 
cutting, without known PMH, self-presenting to the ___ ED with 
increased SI. Pt reports she is here because she is having 
thoughts of committing suicide over the past month. In the past 
month, pt has felt more anxiety. Denies feeling depressed but 
states she is feeling less pleasure in things (anhedonia) 
recently. Interests/motivation are good. Energy is okay. Eating 
is less, sleep is less, concentration is sometimes less when 
feeling anxious. States she is recently having suicidal thoughts 
everyday that come and go. Initially they felt more passive in 
nature but they have been becoming more active recently, 
including thoughts of wanting to kill herself. She denies 
specific plan at this time; however, when I asked pt about 
whether she has suicidal intent, pt states she is not sure, 
meaning she brought herself to the emergency room because she is 
worried if her suicidal thoughts continue like this that she 
might do something to try to go through with this in the near 
future. Pt also reports having urges to superficially cut 
recently. Denies HI. States she has a new therapist appointment 
scheduled ___ (in 1 month) and had been looking for other 
local therapists to see sooner but was having difficulty finding 
providers. Pt states she would like help with finding outpatient 
providers in the future. I offered options of voluntary PHP or 
voluntary inpt hospitalization, pt declines both of these 
options because she is hoping to finish with school before 
graduating soon. Pt states her anxiety is characterized by 
daily, intermittent physical anxiety, meaning 15 minutes at a 
time of having increased anxiety and numbness/tingling in her 
arms, eating less, and intermittent dizziness (denies chest 
tightness, palpitations, GI discomfort, or difficulty 
breathing). Denies specifically worrying more recently but 
states she is feeling more tense and restless in the past month. 
She also reports having anxiety in social situations, including 
feeling concerned about being judged by others and avoidance of 
some social situations. Pt has difficulty naming a specific 
stressor recently making things worse for her. She is graduating 
from college soon, planning over the summer to work as an ___ 
___ ___ and is applying for medical school soon. Denied 
elevated or irritable mood, racing thoughts, pressured speech, 
or increased risky or goal-directed behaviors. She states in the 
past few weeks she has been sleeping ___ total hrs/nt (with 
early morning awakenings) and not feeling as tired during the 
day. Denied psychotic symptoms including auditory or visual 
hallucinations, paranoid delusions, or grandiose delusions. 
Denies regular nightmares or flashbacks. Denies regular 
obsessions or compulsions. Denies deliberate restricting, 
binge-purging, over-exercising, laxative use or diuretic use to 
lose weight. Pt gave verbal consent to speak with pt's friend, 
___, who drove pt here. ___ states he knows pt from school. They 
were reportedly studying together today and pt stated she didn't 
want to be alone. She then told ___ that she wanted to be driven 
to the hospital and when ___ asked why pt said it was because of 
having suicidal thoughts, which was concerning to ___. I asked 
pt if I could speak with her parents for additional collateral 
information/disposition planning and pt declines, she does not 
wish for me to contact them at this current time." 

On arrival to unit, Ms. ___ shared that she has "been trying to 
cope with anxiety". She reported that her anxiety has been 
increasing over the last couple years. Within last month, 
anxiety drastically escalated that she was thinking about ending 
her life "to end the (emotional) pain". She reports long hx of 
recurrent suicidal ideations. However, she is concerned about 
increased intensity of S/I. She placed it at level 8 on scale 0 
(none) to 10 (attempting suicide). Ms. ___ generalized 
anxiety. Reports "feeling nervous all the time". Placed level of 
anxiety at ___ at the time of the interview (comfortable level 
would be ___. Reports that being around people helps her 
coping with anxiety. She feels more anxiety in the AM (before 
starting the day) and in the evening (before going to bed). She 
clearly denied hx of panic attacks. Re. depression, she actually 
denies feeling depressed: reports good motivation and good level 
of energy. She has positive plans for future (e.g., preparing 
for MKAT, applying to med school, she has job lined up at the 
___. Pt admits that her appetite was decreased, she lost ~12 
lbs within last couple months. Her reported current wt is 108 
lbs (ht 5'5"). 
 
Past Medical History:
none
 
Social History:
___
Family History:
-Multiple family members with depression including both parents,
grandparents, aunts, and uncles.  
-Denies known fhx of bipolar disorder.  
-One maternal uncle with a past suicide attempt.  
-Multiple family members with alcohol and drug use.
 
Physical Exam:
General:
 -HEENT: Normocephalic, atraumatic. Moist mucous membranes,
 oropharynx clear. No scleral icterus. 
 -Cardiovascular: Regular rate and rhythm, normal S1,S2, no
 murmurs/rubs/gallops. 
 -Pulmonary: No increased work of breathing. Lungs clear to
 auscultation bilaterally. No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive. No
 tenderness to palpation in all quadrants. No guarding, no
 rebound tenderness.
 -Extremities: Warm and well-perfused. No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: pupils equal, round, reactive to light
 ---III, IV, VI: EOMI without nystagmus
 ---V: Masseter ___ bilaterally
 ---VII: nasolabial folds symmetric bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: trapezii ___ symmetric bilaterally
 ---XII: Tongue protrudes midline
 -Motor: Normal bulk and tone bilaterally. Strength ___ in
deltoids, biceps, triceps, quadriceps, hamstrings.
 -Sensory: deferred
 -DTRs: 2+ patellar, biceps, 
 Coordination: Normal on finger to nose test, no intention 
tremor
 noted
 -Gait: Good initiation. Narrow-based, normal stride and arm
 swing.

Mental status on day of discharge
 -Appearance/Behavior: female in jeans, brown eyes, neat 
shoulder
length brown hair, well combed, wearing blue AllBird shoes and
grey sweatshirt covering arms, pink nail ___ now chipping 
from frequent picking less evident on exam today, good eye 
contact, 
 -Attitude: appropriate, calm
 -Mood: okay
 -Affect: congruent, appears mostly euthymic mildly anxious, 
reactive, mostly full 
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
 -Insight: fair
 -Judgment: good

 
Pertinent Results:
___ 06:25AM BLOOD WBC-5.9 RBC-4.55 Hgb-13.6 Hct-42.5 MCV-93 
MCH-29.9 MCHC-32.0 RDW-11.9 RDWSD-40.7 Plt ___
___ 06:25AM BLOOD Glucose-78 UreaN-9 Creat-0.7 Na-145 K-4.5 
Cl-107 HCO3-23 AnGap-15
___ 06:25AM BLOOD ALT-19 AST-21 AlkPhos-61 TotBili-1.4
___ 06:25AM BLOOD Calcium-9.9 Phos-4.9* Mg-2.1 Cholest-146
___ 06:25AM BLOOD %HbA1c-5.2 eAG-103
___ 06:25AM BLOOD Triglyc-57 HDL-61 CHOL/HD-2.4 LDLcalc-74
___ 06:25AM BLOOD TSH-0.79
___ 06:25AM BLOOD Free T4-1.2
___ 06:25AM BLOOD 25VitD-19*
___ 07:04PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
Ms. ___ presented with profound feelings of loneliness and 
isolation, poor mood, anhedonia, poor appetite, impaired sleep 
quality, and worsening anxiety which increased in frequency and 
severity resulting in thoughts of suicidal ideation without plan 
in setting of increased psychosocial stressors (living 
situation/roommates, graduation, moving back home, finals, 
religious holiday). She felt unsafe and sought out a friend to 
bring her to the emergency department. Patient presented with 
calm, appropriate, well dressed with mild psychomotor agitation, 
"okay" mood incongruent with a dysphoric, minimally reactive, 
constricted affect, paucity of speech, suicidal ideation, 
limited to poor insight and fair judgment. 

Given patient's report during hospitalization of sad mood, 
anhedonia, decreased sleep and appetite (BMI of 18 w/o evidence 
of impaired body image or purposeful restrictive eating), 
loneliness, self isolation and report of severe worry, 
restlessness we felt patient's diagnosis is most consistent with 
a diagnosis of major depressive disorder w/ anxious features. 
Differential diagnosis includes generalized anxiety disorder 
though patient denies social anxiety, panic, avoidance, or 
interference with daily activities. Her anxiety is best 
described as intermittent racing thoughts and restlessness worse 
in the early morning and in the evening. She reports exercise 
including going to the gym is most helpful for her anxiety. 
Psychological testing is notable for chronic suicidality and 
feelings of loneliness, worse at times of high stress including 
periods of transition resulting in high periods of emotionality 
that can at times manifest with conversion symptoms. Patient has 
evidence of anxiety, depression, and some borderline personality 
traits which appear more developed over time in setting of ways 
to cope with high emotionality in setting of decreased emotional 
intelligence/awareness. No self harm or concern or impulsivity.

We started sertraline at low dose which patient tolerated 
without gastrointestinal side effects. We also trialed low dose 
lamotrigine which patient tolerated well without disclosure of 
adverse effects. Recommend follow up with outpatient providers 
for follow up labs in ___ weeks and history/physical exam. We 
conducted individual therapy focusing on emotional intelligence 
and supportive psychotherapy, provided group therapy promoting 
meditations, coping skills, and problem solving skills. We 
recommended patient follow up with partial program and helped 
facilitate moving up of outpatient therapy appointment to early 
___. We also discussed with patient and family about utility of 
family therapy though neither father nor daughter expressed 
interest at this time. 

Following interventions patient's affect was more reactive and 
full. She continued to be shy and demonstrate mild psychomotor 
agitation. She denies passive suicidal ideation at time of 
discharge though did acknowledge intermittent fleeting thoughts 
of SI when lonely over the weekend. She reports feeling 
comfortable, in control and with a plan moving forward. She is 
optimistic about benefits of outpatient therapy though she does 
not think that she has time currently for outpatient partial 
program. Patient demonstrated mild improved insight into 
emotions and was able to self identify safety factors when 
experiencing intense emotions and/or suicidal ideation in the 
outpatient setting including exercising, calling friends, 
calling father, calling therapist, returning to ER. Patients 
strengths/protective factors include high functionality and 
intelligence, good problem solving skills, social support, and 
now newly established outpatient providers.  

Patient will require ongoing outpatient intensive outpatient 
therapy qWeekly is recommended. We recommend initial day program 
and referral was sent for continued group therapy and 
psychopharmacological evaluation in setting of starting 
lamictal. Recommend patient to follow up with pcp and monitor 
CBC in setting of starting new psychiatric medications. Continue 
and up-titrate sertraline as needed/tolerated. 

3. SUBSTANCE USE DISORDERS:
Patient is a non-smoker. No evidence of alcohol use disorder on 
screening. 

4. MEDICAL
No formally diagnosed medical disorders. Normal A1c, TSH, PTH, 
lipid panel, vitals. Mild vitamin D deficiency and in setting of 
low BMI encourage continued weight bearing exercise, protein 
supplementation and or increased food consumption and sunlight 
exposure. Recommend follow up BMP and repeat vitamin D at next 
physical/wellness visit.    

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient attended these groups that focused on teaching patients 
various coping skills. Patient was shy though appropriate and 
interactive with peers. She was actively engaged in the groups 
demonstrating participation and active listening.    

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Family meeting conducted with father. Patient reports 
frustration with mother being not as emotionally supportive. 
Father reports that he talked with daughter about her 
frustration that her emotional needs were not met as a child. 
She reports feelings of sadness and loneliness and isolation in 
setting of having suicidal thoughts as a child which were not 
addressed or per her report noticed. Father feels like he got 
away with more because he was not around as much. He feels like 
his daughter is putting most of the blame on her "mother" and he 
hopes that she will work on it and forgive her. Patient does not 
think this is possible. Father reports that he identifies with 
his daughter in that both keep their "cards close to their 
chest." He acknowledges her hard work and in supportive though 
knows that she must and is capable of making her own independent 
decisions. He is worried about her as a father but is not 
acutely worried that she ___ harm herself. He reports she is at 
her baseline and applauds her for reaching out for help. He 
reports patient has good social support at school and confirms 
that patient has good judgment and problem solving skills. 

#) INTERVENTIONS
We provided medications including sertraline and lamictal which 
patient tolerated well without side effects. We provided 
individual therapy focusing on emotional identification and 
self-awareness, group therapy focusing on coping and problem 
solving skills, and emotional expression. We coordinated 
aftercare with partial program, PCP, expedited therapy intake 
appointment and coordinated a family meeting with father to 
begin family therapy as well establish safe discharge planning 
and coordination. 

On the discharge day, met inpt team (Dr. ___, Dr. ___ met 
with patient. She shared that she had a meeting with Dr. ___ 
___. results of psychological testing. Pt said that she was not 
surprised by the results (increased scales of Anxiety, 
Depression, Suicidal ideations preceding hospital admission). 
Indication that pt is quite lonely. At the time of the meeting, 
Ms. ___ said that her level of anxiety is within low range (___). 
She denied S/I at the time of the interview. She would like to 
be discharged to have an appointment with her providers through 
the ___. She reported about appropriate 
steps in case of emergency.

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
intense feelings of loneliness, anxiety and suicidal thoughts of 
high frequency and severity. Her static factors noted at that 
time include history of suicide attempts, chronic mental 
illness. The modifiable risk factors suicidal ideation without 
intent/plan, lack of engagement with outpatient treatment, 
hopelessness, social withdrawal, limited coping skills, no 
established outpatient treatment were addressed with family and 
individual therapy. We treated anxiety and mood symptoms by 
starting medications and recommend ongoing follow up and 
monitoring for reported improvement and/or need to uptitrate 
sertraline dose if needed/tolerated. We encouraged socialization 
and patient re-engaged with outpatient social supports 
solidifying support for discharge. With the assistance of social 
work we provided outpatient follow up. Finally, the patient is 
being discharged with many protective risk factors, help-seeking 
nature, future-oriented viewpoint, coping skills, good 
problem-solving skills, no history of substance use disorder, no 
history of abuse, strong social supports.  Thus, I feel the 
patient does not meet section 12a criteria for risk of harm to 
self/others. Overall, Based on the totality of our assessment at 
this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others.

 
Medications on Admission:
none 
 
Discharge Medications:
1.  LamoTRIgine 25 mg PO QHS 
RX *lamotrigine 25 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
2.  Sertraline 25 mg PO DAILY depression and anxiety 
RX *sertraline 25 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder with anxious features

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
okay mood congruent with euthymic mildly anxious affect, full, 
reactive. linear, denies active SI, intent, plan. Fair insight, 
normal judgment. 

 
Discharge Instructions:
Discuss medications and goals of therapy including DBT.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___